US07618979B2
Step 8 ethyl (1-isopropyl-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl)acetate
To a solution of ethyl (2E)-(1-isopropenyl-6,7-dihydro-8H-pyrido[3,4-b]-pyrrolizin-8-ylidene)ethanoate (0.40 g, 1.4 mmol) in MeOH (20 mL) was added Pd(OH)2 (0.20 g). The mixture was stirred under 1 atm of H2 for 3 h. The mixture was filtered over celite and evaporated to provide the title compound.

reactant | ethyl (2E)-(1-isopropenyl-6,7-dihydro-8H-pyrido[3,4-b]-pyrrolizin-8-ylidene)ethanoate | 1.4 mmol, 0.40 g | C(=C)(C)C1=NC=CC2=C1C=C1\C(\CCN21)=C\C(=O)OCC | C17H18N2O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd(OH)2 | 0.20 g | [OH-].[OH-].[Pd+2]
product | ethyl (1-isopropyl-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl)acetate | C(C)(C)C1=NC=CC2=C1C=C1C(CCN21)CC(=O)OCC | C17H22N2O2
